US07018995B2
Synthesis of Budesonide Butylcarbamate. (Example 6)
To the solution of budesonide (500 mg, 1.16 mmol) in DCM (5.0 mL) was added butyl isocyanate (144 μL, 1.28 mmol) and DMAP (312 mg, 2.55 mmol) at room temperature. The reaction mixture was stirred at room temperature for 24 hours. During this 24 hours more butyl isocyanate (72 μL, 0.64 mmol) and DMAP (156 mg, 1.27 mmol). The reaction was followed by HPLC. The reaction mixture was poured into water (20 mL) and DCM (10 mL); the aqueous phase was extracted with DCM (10 mL). The combined organic phases were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to provide crude budesonide butylcarbamate. The product was purified by chromatography, eluted with Hexane: AcOEt=9:1 to 3:1 to provide 560 mg of 1:1 mixture of epimers (originated from budesonide) (99.22 area % purity on HPLC). 1H NMR (CDCl3) δ 0.82-2.7 (m, 30H), 3.06-3.20 (m, 3H), 4.45 (m, 1H), 4.58 (t, 1H, 4.5 Hz), 4.75-5.36 (m, 5H), 5.99 (s, 1H), 6.24 (d, 1H, 10.1 Hz), 7.29 (d, 1H, 10.1 Hz). 13C NMR(CDCl3) δ 13.98, 14.08, 14.22, 17.09, 17.30, 17.37, 17.73, 20.09, 20.28, 21.26, 30.56, 31.22, 32.11, 32.59, 33.13, 33.65, 34.27, 35.23, 37.34, 40.30, 40.73, 40.99, 41.17, 44.37, 46.09, 47.49, 50.01, 53.15, 55.43, 55.52, 67.82, 69.82, 69.93, 82.11, 83.37, 97.84, 98.75, 104.66, 108.43, 122.61, 127.97, 155.94, 156.03, 156.79, 170.45, 170.56, 186.95, 203.89 and 205.21.

reactant | budesonide | 1.16 mmol, 500 mg | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
reactant | butyl isocyanate | 1.28 mmol, 144 μL | C(CCC)N=C=O | C5H9NO
reactant | butyl isocyanate | 0.64 mmol, 72 μL | C(CCC)N=C=O | C5H9NO
reactant | water | 20 mL | O | H2O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.55 mmol, 312 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 1.27 mmol, 156 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Budesonide Butylcarbamate | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C.C(CCC)NC([O-])=O | InChI=1S/C25H34O6.C5H11NO2/c1-4-5-21-30-20-11-17-16-7-6-14-10-15(27)8-9-23(14,2)22(16)18(28)12-24(17,3)25(20,31-21)19(29)13-26;1-2-3-4-6-5(7)8/h8-10,16-18,20-22,26,28H,4-7,11-13H2,1-3H3;6H,2-4H2,1H3,(H,7,8)/p-1/t16-,17-,18-,20+,21?,22+,23-,24-,25+;/m0./s1
